US05571792
Step 2: N-[(Phenylmethoxy)carbonyl]-L-histidyl-N2 -[4-(phenylmethoxy)butyl]-N-[2-(phenylmethoxy)ethyl]glycinamide
According to Example 10, Step 4, by substituting the compound from Step 1 above for N-[2-(phenylmethoxy)ethyl]-N2 -[[4-(phenylmethoxy)phenyl]methyl]glycinamide and CBZ-histidine for CBZ-D-histidine, the title compound was obtained as a white foam; ES-MS 642 (m+1).

reactant | N-[2-(phenylmethoxy)ethyl]-N2 -[[4-(phenylmethoxy)phenyl]methyl]glycinamide | C1(=CC=CC=C1)COCCNC(CNCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C25H28N2O3
reactant | CBZ-histidine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CNC=N1)C(=O)O | C14H15N3O4
reactant | CBZ-D-histidine | C(=O)(OCC1=CC=CC=C1)N[C@H](CC1=CNC=N1)C(=O)O | C14H15N3O4
product | N-[(Phenylmethoxy)carbonyl]-L-histidyl-N2 -[4-(phenylmethoxy)butyl]-N-[2-(phenylmethoxy)ethyl]glycinamide | C1(=CC=CC=C1)COC(=O)N[C@@H](CC1=CNC=N1)C(=O)N(CC(=O)NCCOCC1=CC=CC=C1)CCCCOCC1=CC=CC=C1 | C36H43N5O6
